US08541596B2
N-(2,5-Dichlorobenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 2,5-dichlorobenzylbromide (528 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5. Yield: 0.045 g (15.4%); MS m/z: 292.2/294.3 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.32 (d, 2H, 3J=6.1 Hz); 6.20 (br s, 1H); 6.43 (br s, 1H); 6.60 (dd, 1H, 4J=1.6 Hz, 3J=8.8 Hz); 7.30-7.33 (m, 2H); 7.40 (d, 1H, 4J=2.6 Hz); 7.49 (d, 1H, 3J=8.5 Hz); 7.86 (s, 1H), 11.83 (br s, 1H); HPLC (METHOD [A]): rt 12.97 min (100%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 2,5-dichlorobenzylbromide | 2.2 mmol, 528 mg, 2.2 eq. | ClC1=C(CBr)C=C(C=C1)Cl | C7H5BrCl2
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(2,5-Dichlorobenzyl)-1H-benzo[d]imidazol-5-amine | ClC1=C(CNC2=CC3=C(NC=N3)C=C2)C=C(C=C1)Cl | C14H11Cl2N3
